US05658858
6,7-Difluoroisatin (22.2 g) was added to a solution of sodium hydroxide (2N, 185 ml). Hydrogen peroxide (30%, 36 ml) was added at 40° C. or less over 20 minutes. After 1 hour the mixture was heated to 65° C. for 0.5 hours, cooled, poured onto water and acidified with concentrated hydrochloric acid. The resulting solid was filtered, washed with water and recrystallised from ethyl acetate/cyclohexane to give 2-amino-3,4-difluorobenzoic acid (11.3 g) as an orange solid, m.p. 207°-208° C.

reactant | 6,7-Difluoroisatin | 22.2 g | FC1=CC=C2C(C(NC2=C1F)=O)=O | C8H3F2NO2
reactant | sodium hydroxide | 2N, 185 ml | [OH-].[Na+]
reactant | Hydrogen peroxide | 36 ml | OO | H2O2
reactant | hydrochloric acid | Cl | ClH
product | 2-amino-3,4-difluorobenzoic acid | 11.3 g | NC1=C(C(=O)O)C=CC(=C1F)F | C7H5F2NO2
